US07579368B2
1-Ethanesulfonyl-piperazine
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine and ethylsulfonyl chloride using the procedure described in example 12.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethylsulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 1-Ethanesulfonyl-piperazine | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
